Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left facial numbness and alien limb sensation
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ year old man who presents from OSH ___
with acute onset L facial numbness (perioral, cheek) and "seeing
[his] left arm swinging around." 

He was in his usual state of health upon waking up this morning
at 06:40. He went to the bathroom feeling well, but at 06:54 
when
he went to grab his phone, he noticed that his left arm seemed 
to
be "swinging around." This frightened him so he woke up his wife
and said "something's wrong" and recalls that his speech was
slurred and that the left lower face (including left lips, 
cheek)
was numb - as if he had had a novocaine injection. 

He was taken to the ___ where he was described as having 
an
NIHSS of 0. NCHCT was negative. He was given ASA 325 and
transferred to the ___ ___ for further evaluation. 

He notes that his symptoms have almost completely resolved,
although he continues to have mild sensory deficits in his L 
face
and "clumsiness" of the L hand (dropped a bar of soap in the
bathroom, dropped his cell phone) -- which he attributes to the
"sensation being off" in his hand rather than weakness.  

 
Past Medical History:
- Remote neck injury (___) with resultant L UE symptoms
- Lower back pain, arthritis
- Borderline HTN but no antihypertensives

 
Social History:
___
Family History:
- Father with atrial fibrillation, ___ disease
- Mother with ___ disease
- MGM with stroke

 
Physical Exam:
ADMISSION EXAMINATION

Vitals: 
T: 98.1 
HR: 87 
BP: 112/72 
RR: 18 
SpO2: 98% RA 
 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, full ROM
Pulmonary: breathing comfortably on RA
Cardiac: warm and well-perfused
Abdomen: soft, nondistended
Extremities: no clubbing or edema
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backwards 
without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name all high-frequency objects but unable to 
name
"hammock" and "feather." Able to read without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation decreased to light touch and temperature in
the V2 and V3 distributions on the L but otherwise intact.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally, but with mild clumsiness with finger tapping onto
the thumb crease on the Left (normal on R). No adventitious
movements, such as tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout (with exception of L
face). No extinction to DSS.

-DTRs:
  Bi ___ Pat Ach
L  2   2    2   1
R  2   2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

DISCHARGE EXAMINATION
 Vitals: T: 98.5 BP: 122/82 HR: 88 RR: 20 SpO2: 95% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive, able to name 
days of week backwards without difficulty. Language is fluent 
with intact comprehension. Able to follow both midline and 
appendicular commands. 

-Cranial Nerves: VFF to confrontation. EOMI without nystagmus. 
Facial sensation symmetric to light touch aside from mildly 
diminished sensation to LT in left perioral area. Face symmetric 
at rest and with activation. Hearing intact to conversation. 
Palate elevates symmetrically. ___ strength in trapezii 
bilaterally. Tongue protrudes in midline.

-Motor: Subtle pronation of left hand, slowed finger taps on 
left. No adventitious movements, such as tremor, noted. Power 
full throughout.

-Sensory: Proprioception intact BUE. Intact to LT throughout but 
with some agraphesthesia on left hand, identifying fewer numbers 
than on the right. No extinction to DSS.

-DTRs: ___.

-Coordination: Subtle dysmetria on the left without intention 
tremor, subtle dysdiadochokinesia on left.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 05:00AM BLOOD WBC-6.8 RBC-4.42* Hgb-14.0 Hct-40.8 
MCV-92 MCH-31.7 MCHC-34.3 RDW-12.5 RDWSD-42.4 Plt ___
___ 05:00AM BLOOD Glucose-99 UreaN-20 Creat-1.0 Na-141 
K-4.1 Cl-103 HCO3-28 AnGap-10
___ 05:00AM BLOOD Calcium-8.8
___ 06:37PM BLOOD %HbA1c-5.5 eAG-111
___ 05:10AM BLOOD Triglyc-171* HDL-42 CHOL/HD-4.4 
LDLcalc-108
___ 05:10AM BLOOD TSH-2.9

IMAGING

___ 10:18 AM CTA HEAD & NECK W&W/OC & RECONS; CT BRAIN 
PERFUSION
1. Right precentral gyrus infarct described on subsequent MRI 
head is not
appreciated within confines of CT technique.
2. Essentially unremarkable CTA of the head.
3. Moderate stenosis at the left vertebral artery origin.  
Otherwise,
essentially unremarkable CTA of the neck.  There is no stenosis 
of the
cervical internal carotid arteries by NASCET criteria.
4. Evidence of mildly increased T-max on perfusion images in the 
region of the acute right frontal infarct.  Otherwise, 
unremarkable CBV, CBF and MTT.
5. Additional findings as described above.

___ 12:22 ___ MR CERVICAL SPINE W/O CONTRAST
1. Spondylotic changes of the cervical spine most prominent at 
C5-C6 where
there is moderate spinal canal stenosis and severe bilateral 
neural foraminal narrowing.  There is a modeling of the cord 
without underlying signal change.
2. Additional findings as described above.

___ 12:22 ___ STROKE PROTOCOL (BRAIN W/O)
1. Findings compatible with acute infarction involving the right 
precentral
gyrus and to a lesser extent the middle frontal gyrus.
2. Evidence of an old left cerebellar infarct.
3. Additional findings as described above.

___ ROUTINE EEG
This is a normal waking and minimally drowsy EEG without 
evidence
for slowing or discharging abnormalities.

Portable TTE (Congenital, complete) Done ___ at 3:33:28 ___ 

Likely small secundum atrial septal defect or patent foramen 
ovale. Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
No valvular pathology or pathologic flow identified.

If clinically indicated, a TEE with saline contrast is suggested 
to better define/confirm the likely PFO/small ASD. 

___ 10:30 ___ MRV PELVIS W&W/O CONTRAST
1.  Patent vasculature.
2.  Incompletely characterized 1.9 cm right lower pole renal 
lesion, similar to ___ ___ 9:03 AM BILAT LOWER EXT VEINS
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.
 
Brief Hospital Course:
___ right-handed man with history notable for HTN (not 
on antihypertensives), remote neck injury complicated by LUE 
radiculopathy, hypothyroidism, and chronic LBP admitted for left 
facial numbness, left hand weakness, and transient sensation of 
alien left arm. MRI notable for acute right MCA ischemic infarct 
as well as chronic left cerebellar infarct, suggestive of 
cardioembolic source. TTE notable for likely small secundum 
atrial septal defect or patent foramen ovale, with 
recommendation for outpatient TEE for further characterization 
and assessment of suitability for closure. Follow-up Duplex 
lower extremity ultrasound and MR venogram of the pelvis 
preliminarily negative for DVT. Routine EEG preliminarily 
notable for right-sided slowing but not epileptiform discharges, 
arguing against symptomatic focal seizure as source of alien 
limb phenomenon (which was also most likely ischemic in 
etiology). Laboratory testing notable for LDL of 108 and Hgb A1c 
of 5.5%.

Echo showed Likely small secundum atrial septal defect or patent 
foramen ovale. MRV pelvis and LENIs did not show evidence of a 
clot.

TRANSITIONAL ISSUES:
1. Outpatient cardiac monitoring for four weeks.
2. Outpatient TEE for evaluation of PFO vs. ASD seen on TTE, 
with cardiology follow-up as outpatient to discuss possible 
closure.
3. Consider outpatient occupational therapy if left hand 
clumsiness persists or worsens.
4. Incompletely characterized 1.9 cm right lower pole renal 
lesion, similar to ___ outside CT.
 
Medications on Admission:
1. Zolpidem Tartrate 10 mg PO QHS 
2. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain - 
Severe 
3. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 (One) tablet(s) by mouth once a day Disp 
#*28 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 (One) tablet(s) by mouth once a day 
Disp #*28 Tablet Refills:*0 
3.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Severe  
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.  Zolpidem Tartrate 10 mg PO QHS  
6.Outpatient Occupational Therapy
Outpatient OT
7.Outpatient Physical Therapy
Outpatient ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute right MCA ischemic infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of left facial numbness 
and left hand clumsiness resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - High cholesterol
 - High blood pressures in the past
 - Connection between two chambers of your heart (likely patent 
foramen ovale or atrial septal defect)
  
We are changing your medications as follows:  
 - ADD aspirin 81 mg by mouth daily
 - ADD atorvastatin 40 mg by mouth every evening
Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below. Please also call ___ to schedule an 
appointment to receive a heart rhythm monitor ___ of Hearts 
device) to assess for atrial fibrillation, a heart rhythm that 
can predispose you to strokes. You will also be contacted by the 
Cardiology department to schedule a transesophageal 
echocardiogram (TEE) to better characterize your atrial septal 
defect/patent foramen ovale. A routine EEG was obtained, and the 
preliminary read was normal; the final read is pending. Your MRV 
pelvis and lower extremity dopplers did not show any evidence of 
clot. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___